US04735940
7.1 ml of tri-n-butylamine and 6.1 ml of isopropanol were aded to a suspension of 2.0 g of 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylic acid and 3.8 g of N-methyl-2-chloropyridinium iodide in 12.5 ml of methylene chloride, the reaction mixture was stirred under reflux for 24 hours, evaporated in vacuo and the residue was chromatographed on silica gel with toluene/ethyl acetate (9:1). After crystallization from methanol, there was obtained pure isopropyl 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate of m.p. 165.5°-166°.

reactant | tri-n-butylamine | 7.1 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | isopropanol | 6.1 ml | C(C)(C)O | C3H8O
reactant | 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | 2.0 g | O=C1N2CCC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)O)SC=C3 | C18H13NO3S
reactant | N-methyl-2-chloropyridinium iodide | 3.8 g | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | methylene chloride | 12.5 ml | C(Cl)Cl | CH2Cl2
product | isopropyl 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate | O=C1N2CCC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)OC(C)C)SC=C3 | C21H19NO3S
